US06794512B2
5-(2-Fluoro-benzylsulfanyl)-1-(5-methanesulfonyl-pyridin-2-yl)-3-trifluoromethyl-1H-pyrazole-4-carbonitrile
5-Chloro-1-(5-methanesulfonyl-pyridin-2-yl)-3-trifluoromethyl-1H-pyrazole-4-carbonitrile (0.512 g, 1.46 mmol) and (2-fluoro-phenyl)-methanethiol (0.415 g, 2.92 mmol) were dissolved in dry DMSO (5 ml) and cesium fluoride (0.154 g, 2.92 mmol) was added to the clear solution. The resulting mixture was stirred at 20° for a period of 48 hours. Analytical HPLC indicated the reaction completion. The reaction mixture was poured into water (50 ml) and the resulting mixture was extracted with ethyl acetate (20 ml). The organic extract was dried over magnesium sulfate and concentrated with a rotary evaporator. The desired product (0.55 g, 83%) was isolated by chromatography on silica gel eluting with a gradient (from 20-40%) of ethyl acetate in hexane. MS: 457, r.t.: 27, 1H-NMR (CDCl3, 400 MHZ) δ 9.05 (d, 1H, H—Ar), 8.44-8.41 (q, 1H, H—Ar), 8.05 (d, 1H, H—Ar), 7.34-7.27 (m, 2H, H—Ar), 7.13-7.02 (m, 2H, H—Ar), 4.61 (s, 2H, CH2 of the benzyl group), 3.16 (s, 3H, CH3 of the CH3SO2 group) ppm.

reactant | 5-Chloro-1-(5-methanesulfonyl-pyridin-2-yl)-3-trifluoromethyl-1H-pyrazole-4-carbonitrile | 1.46 mmol, 0.512 g | ClC1=C(C(=NN1C1=NC=C(C=C1)S(=O)(=O)C)C(F)(F)F)C#N | C11H6ClF3N4O2S
reactant | (2-fluoro-phenyl)-methanethiol | 2.92 mmol, 0.415 g | FC1=C(C=CC=C1)CS | C7H7FS
reactant | cesium fluoride | 2.92 mmol, 0.154 g | [F-].[Cs+]
reactant | water | 50 ml | O | H2O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 5-(2-Fluoro-benzylsulfanyl)-1-(5-methanesulfonyl-pyridin-2-yl)-3-trifluoromethyl-1H-pyrazole-4-carbonitrile | 0.55 g, 83% | FC1=C(CSC2=C(C(=NN2C2=NC=C(C=C2)S(=O)(=O)C)C(F)(F)F)C#N)C=CC=C1 | C18H12F4N4O2S2
